### PR TITLE
[Merged by Bors] - refactor(NumberTheory/RamificationInertia): use `Ideal.LiesOver` in some results about `inertiaDeg`

### PR DESCRIPTION
**Pull request by mbkybky**
Use [Ideal.LiesOver](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Over.html#Ideal.LiesOver) in the results about [Ideal.inertiaDeg](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia.html#Ideal.inertiaDeg) in the case `[Algebra R S]`.

- [x] depends on: #18249

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mbkybky** [comment]
!bench

File: Mathlib/NumberTheory/RamificationInertia.lean [hunk 1]
```diff
@@ -185,13 +192,10 @@ We do not assume `P` lies over `p` in the definition; we return `0` instead.
...
-noncomputable def inertiaDeg [p.IsMaximal] : ℕ :=
+noncomputable def inertiaDeg : ℕ :=
   if hPp : comap f P = p then
-    @finrank (R ⧸ p) (S ⧸ P) _ _ <|
-      @Algebra.toModule _ _ _ _ <|
-        RingHom.toAlgebra <|
-          Ideal.Quotient.lift p ((Ideal.Quotient.mk P).comp f) fun _ ha =>
-            Quotient.eq_zero_iff_mem.mpr <| mem_comap.mp <| hPp.symm ▸ ha
+    @finrank (R ⧸ p) (S ⧸ P) _ _ <| @Algebra.toModule _ _ _ _ <|
+      Quotient.algebraQuotientOfLEComap (le_of_eq hPp.symm)
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia.lean:198]: Can you change this into
```
letI : Algebra (R ⧸ p) (S ⧸ P) := something
finrank (R ⧸ p) (S ⧸ P)
```

File: Mathlib/NumberTheory/RamificationInertia.lean [hunk 2]
```diff
@@ -412,11 +408,10 @@ variable (L)
 then the dimension `[S/pS : R/p]` is equal to `[Frac(S) : Frac(R)]`. -/
 theorem finrank_quotient_map [IsDomain S] [IsDedekindDomain R] [Algebra K L]
     [Algebra R L] [IsScalarTower R K L] [IsScalarTower R S L] [IsIntegralClosure S R L]
-    [hp : p.IsMaximal] [IsNoetherian R S] :
+    [hp : p.IsMaximal] [Module.Finite R S] :
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia.lean:411]: Can you explain the reason behind this change?

File: Mathlib/NumberTheory/RamificationInertia.lean [hunk 3]
```diff
@@ -203,41 +207,35 @@ theorem inertiaDeg_of_subsingleton [hp : p.IsMaximal] [hQ : Subsingleton (S ⧸
...
-  have := comap_eq_of_scalar_tower_quotient (algebraMap (R ⧸ p) (S ⧸ P)).injective
-  rw [inertiaDeg, dif_pos this]
-  congr
-  refine Algebra.algebra_ext _ _ fun x' => Quotient.inductionOn' x' fun x => ?_
-  change Ideal.Quotient.lift p _ _ (Ideal.Quotient.mk p x) = algebraMap _ _ (Ideal.Quotient.mk p x)
-  rw [Ideal.Quotient.lift_mk, ← Ideal.Quotient.algebraMap_eq P, ← IsScalarTower.algebraMap_eq,
-    ← Ideal.Quotient.algebraMap_eq, ← IsScalarTower.algebraMap_apply]
+  rw [inertiaDeg, dif_pos (over_def P p).symm]
+
+theorem inertiaDeg_pos [p.IsMaximal] [Nontrivial (S ⧸ P)] [Algebra R S] [Module.Finite R S]
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia.lean:215]: I don't think `[Nontrivial (S ⧸ P)]` is nessecary? `S / P` is trivial should imply `P` is the unit ideal and thus `p` must also be the unit ideal, which cannot happen.

File: Mathlib/NumberTheory/RamificationInertia.lean [hunk 4]
```diff
@@ -203,41 +207,35 @@ theorem inertiaDeg_of_subsingleton [hp : p.IsMaximal] [hQ : Subsingleton (S ⧸
...
+    [P.LiesOver p] : 0 < inertiaDeg (algebraMap R S) p P :=
+  finrank_pos.trans_eq (inertiaDeg_algebraMap p P).symm
+
+theorem inertiaDeg_ne_zero [p.IsMaximal] [Nontrivial (S ⧸ P)] [Algebra R S] [Module.Finite R S]
+    [P.LiesOver p] : inertiaDeg (algebraMap R S) p P ≠ 0 :=
+  Nat.not_eq_zero_of_lt (inertiaDeg_pos p P)
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia.lean:221]: Is this needed? I think this is just `(inertiaDeg_pos p P).ne`.

**Review by erdOne — COMMENTED** [review]
Thanks!
some minor comments

File: Mathlib/NumberTheory/RamificationInertia.lean (hunk 2 above)
Comment (mbkybky) [reply Mathlib/NumberTheory/RamificationInertia.lean:411]: I find that only `Module.Finite R S` is used in the proof, so I have changed all instances of `IsNoetherian R S` in this file to `Module.Finite R S`. This might be more general and align better with mathematical conventions. Of course, in this theorem, since `R` is a Noetherian ring, `IsNoetherian R S` is equivalent to `Module.Finite R S`.

File: Mathlib/NumberTheory/RamificationInertia.lean (hunk 4 above)
Comment (mbkybky) [reply Mathlib/NumberTheory/RamificationInertia.lean:221]: In fact, it is `(inertiaDeg_pos p P).ne.symm`. So I think it would be more convenient to use if this theorem is kept.

Comment (erdOne) [reply Mathlib/NumberTheory/RamificationInertia.lean]: There's also `(inertiaDeg_pos p P).ne'`

File: Mathlib/NumberTheory/RamificationInertia.lean [hunk 5]
```diff
@@ -879,19 +847,17 @@ theorem ramificationIdx_algebra_tower [IsDedekindDomain S] [IsDedekindDomain T]
     (hfg : map (algebraMap R T) p ≠ ⊥) (hg : map (algebraMap S T) P ≤ Q) :
     ramificationIdx (algebraMap R T) p Q =
     ramificationIdx (algebraMap R S) p P * ramificationIdx (algebraMap S T) P Q := by
-  classical
   rw [IsScalarTower.algebraMap_eq R S T] at hfg ⊢
   exact ramificationIdx_tower hg0 hfg hg
 
 /-- Let `T / S / R` be a tower of algebras, `p, P, I` be ideals in `R, S, T`, respectively,
   and `p` and `P` are maximal. If `p = P ∩ S` and `P = Q ∩ S`,
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia.lean:854]:
```suggestion
  and `p` and `P` are maximal. If `p = P ∩ S` and `P = I ∩ S`,
```

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 6]
```diff
@@ -462,6 +462,35 @@ theorem mem_of_liesOver [P.LiesOver p] (x : A) : x ∈ p ↔ algebraMap A B x 
   rw [P.over_def p]
   rfl
 
+theorem eq_top_iff_liesOver_eq_top [P.LiesOver p] : P = ⊤ ↔ p = ⊤ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:465]:
```suggestion
theorem eq_top_iff_of_liesOver [P.LiesOver p] : P = ⊤ ↔ p = ⊤ := by
```
(or `eq_top_iff_eq_top_of_liesOver`)

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 7]
```diff
@@ -462,6 +462,35 @@ theorem mem_of_liesOver [P.LiesOver p] (x : A) : x ∈ p ↔ algebraMap A B x 
...
+  over := by
+    ext x
+    rw [mem_comap, h, over_def P p, mem_comap, ← show _ = map σ P from comap_symm (σ : B ≃+* C)]
+    rw [mem_comap, ← (AlgEquiv.commutes (σ : B ≃ₐ[A] C).symm x)]
+    rfl
+
+theorem LiesOver.of_eq_comap_equiv [Q.LiesOver p] {E : Type*} [EquivLike E B C]
+    [AlgEquivClass E A B C] (σ : E) (h : P = Q.comap σ) : P.LiesOver p := by
+  rw [← show _ = Q.comap σ from map_symm (σ : B ≃+* C)] at h
+  exact of_eq_map_equiv p (σ : B ≃ₐ[A] C).symm h
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:482]: This holds for arbitrary algebra homomorphisms right?

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 8]
```diff
@@ -526,21 +556,43 @@ theorem algebraMap_injective_of_liesOver :
   exact Quotient.eq.mp hab
 
 instance [P.IsPrime] : NoZeroSMulDivisors (A ⧸ p) (B ⧸ P) :=
-  NoZeroSMulDivisors.of_algebraMap_injective (Quotient.algebraMap_injective_of_liesOver P p)
-
-/-- If `P` lies over `p`, then the stabilizer of `P` acts on the extension `(B ⧸ P) / (A ⧸ p). -/
+  NoZeroSMulDivisors.of_algebraMap_injective (algebraMap_injective_of_liesOver P p)
+
+variable {p} in
+theorem nontrivial_of_liesOver_ne_top (hp : p ≠ ⊤) : Nontrivial (B ⧸ P) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:562]:
```suggestion
theorem nontrivial_of_liesOver_of_ne_top (hp : p ≠ ⊤) : Nontrivial (B ⧸ P) :=
```

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 9]
```diff
@@ -526,21 +556,43 @@ theorem algebraMap_injective_of_liesOver :
...
+  Quotient.nontrivial ((eq_top_iff_liesOver_eq_top P p).mp.mt hp)
+
+theorem nontrivial_of_liesOver_isPrime [hp : p.IsPrime] : Nontrivial (B ⧸ P) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:565]:
```suggestion
theorem nontrivial_of_liesOver_of_isPrime [hp : p.IsPrime] : Nontrivial (B ⧸ P) :=
```

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 10]
```diff
@@ -526,21 +556,43 @@ theorem algebraMap_injective_of_liesOver :
...
+variable {P} in
+/-- An `A ⧸ p`-algebra isomorphism between `B ⧸ P` and `C ⧸ Q` induced by an `A`-algebra
+  isomorphism between `B` and `C`, where `Q = σ P`. -/
+def algEquivOfEqMap {E : Type*} [EquivLike E B C] [AlgEquivClass E A B C] (σ : E)
+    (h : Q = P.map σ) : (B ⧸ P) ≃ₐ[A ⧸ p] (C ⧸ Q) := {
+  quotientEquiv P Q σ h with
+  commutes' := by
+    rintro ⟨x⟩
+    exact congrArg (Ideal.Quotient.mk Q) (AlgHomClass.commutes σ x)
+}
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:577]:
```suggestion
    (h : Q = P.map σ) : (B ⧸ P) ≃ₐ[A ⧸ p] (C ⧸ Q) where
  __ := quotientEquiv P Q σ h
  commutes' := by
    rintro ⟨x⟩
    exact congrArg (Ideal.Quotient.mk Q) (AlgHomClass.commutes σ x)
```

File: Mathlib/RingTheory/Ideal/Over.lean [hunk 11]
```diff
@@ -526,21 +556,43 @@ theorem algebraMap_injective_of_liesOver :
...
+
+variable {P} in
+/-- An `A ⧸ p`-algebra isomorphism between `B ⧸ P` and `C ⧸ Q` induced by an `A`-algebra
+  isomorphism between `B` and `C`, where `P = σ⁻¹ Q`. -/
+def algEquivOfEqComap {E : Type*} [EquivLike E B C] [AlgEquivClass E A B C] (σ : E)
+    (h : P = Q.comap σ) : (B ⧸ P) ≃ₐ[A ⧸ p] (C ⧸ Q) := by
+  rw [← show _ = Q.comap σ from map_symm (σ : B ≃+* C)] at h
+  exact (algEquivOfEqMap p (σ : B ≃ₐ[A] C).symm h).symm
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Over.lean:585]: Using rewrite to construct data is very bad. It gives `Eq.cast` in the term that is very unusable. Consider using `Ideal.quotientEquivAlgOfEq`.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
